US05455253
9-(3-Fluorophenyl)-3,4,5,6,7,8,9,10-octahydro-1(2H)-acridinone.
A mixture of 9-(3-fluorophenyl)-3,4,6,7,9,10-hexahydro-1,8(2H,5H)-acridinedione (5.0 g), sodium borohydride (6.1 g), ethanol (140 mL) and pyridine (50 mL) was heated at 70° C. overnight and cooled to room temperature. The solvent was removed and the resulting yellow solid was collected and washed well with water. Chromatography (ethyl acetate/hexane; 80/20) provided the title compound (2.1 g) as a yellow solid. Recrystallization from ethanol/hexane returned analytically pure light yellow solid, mp 249°-251° C.; NMR: 1.45-1.55 (m,3, CH2), 1.66-1.90 (m,5, CH2); 2.10-2.15 (m,4, CH2), 2.39-2.45 (m,2, CH2), 4.19 (s,1, CH), 6.87-6.92 (m,2, Ar), 7.00 (d,1, J=7.8, Ar), 7.20-7.27 (m,1, Ar), 8.41 (s,1, NH); (CI, CH4) MS: m/z=298(M+1). Analysis for C 19 H20FNO: Calculated C, 76.74; H, 6.78; N, 4.71; Found: C, 76.32; H, 6.71; N, 4.62.

reactant | 9-(3-fluorophenyl)-3,4,6,7,9,10-hexahydro-1,8(2H,5H)-acridinedione | 5.0 g | FC=1C=C(C=CC1)C1C=2C(CCCC2NC=2CCCC(C12)=O)=O | C19H18FNO2
reactant | sodium borohydride | 6.1 g | [BH4-].[Na+]
reactant | ethanol | 140 mL | C(C)O | C2H6O
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 9-(3-Fluorophenyl)-3,4,5,6,7,8,9,10-octahydro-1(2H)-acridinone | 2.1 g | FC=1C=C(C=CC1)C1C=2CCCCC2NC=2CCCC(C12)=O | C19H20FNO
